US08440665B2
4-Cyclopropyl-5-methyl-1H-imidazole was synthesized according to the following procedure: Under nitrogen with stirring formamidine acetate (15.62 g, 150 mmol) was suspended in 40 ml anhydrous ethanol. 2-bromo-1-cyclopropylpropan-1-one (2.64 g, 15 mmol) was added via syringe and the mixture was heated to 60° C. for 2 hours. Triethylamine (21 ml, 155 mmol) was then added and the reaction was heated for an additional 12 hours at 60° C. The solvent was removed under reduced pressure, and the residue was dissolved in 50 ml of water. An aqueous solution of saturated sodium bicarbonate (20 ml) was added, followed by sodium chloride until the solution became saturated. The mixture was placed in a separatory funnel and extracted with ethyl acetate (3×50 ml), the organic extracts combined, dried over magnesium sulfate, filtered and then the solvent removed under reduced pressure. The oily residue was washed with hexanes (2×100 ml) to remove any residual triethylamine, leaving an oily residue which was >90% pure by 1H-NMR, which was further purified by loading onto a silica gel column in ethyl acetate and eluting with 0 to 10% methanol in ethyl acetate. Yield 0.607 g, 33%

reactant | formamidine acetate | 150 mmol, 15.62 g | C(C)(=O)O.C(=N)N
reactant | 2-bromo-1-cyclopropylpropan-1-one | 15 mmol, 2.64 g | BrC(C(=O)C1CC1)C | C6H9BrO
reactant | Triethylamine | 155 mmol, 21 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-Cyclopropyl-5-methyl-1H-imidazole | C1(CC1)C=1N=CNC1C | C7H10N2
